US07348348B2
(5Z)-5-{[5-(2-chlorophenyl)-2-furyl]methylene}-1,3-thiazolidine-2,4-dione
The titled compound was prepared by the condensation of 5-(5-(2-chloro-phenyl)furan-2-aldehyde (1.0 g) with 2,4-thiazolidinedione (0.68 g) using the procedure described in Step B of EXAMPLE 1.

reactant | 5-(2-chloro-phenyl)furan-2-aldehyde | 1.0 g | ClC1=C(C=CC=C1)C1=CC=C(O1)C=O | C11H7ClO2
reactant | 2,4-thiazolidinedione | 0.68 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | (5Z)-5-{[5-(2-chlorophenyl)-2-furyl]methylene}-1,3-thiazolidine-2,4-dione | ClC1=C(C=CC=C1)C1=CC=C(O1)\C=C/1\C(NC(S1)=O)=O | C14H8ClNO3S
